US05733917
A solution of 1.55 g of ethyl 1-isopropyl-2(1H)-quinolone-3-carboxylate and 0.28 g of sodium hydroxide in a solvent mixture of 10 ml of ethanol and 2 ml of water was stirred at room temperature overnight. The solvent was evaporated under reduced pressure, and after addition of dil. hydrochloric acid, the precipitated solid was collected by filtration, washed with water and dried to give 1.22 g of 1-isopropyl-2(1H)-quinolone-3-carboxylic acid. m.p. 168°-169° C. (ethyl acetate)

reactant | ethyl 1-isopropyl-2(1H)-quinolone-3-carboxylate | 1.55 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)OCC)=O | C15H17NO3
reactant | sodium hydroxide | 0.28 g | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-isopropyl-2(1H)-quinolone-3-carboxylic acid | 1.22 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C13H13NO3
